US04212942
The mother liquor separated from crystals in the process in (D) is concentrated to dryness to give 9.7 kg of the complex containing SY-1 through -8. The complex is dissolved in 100 liters of a 2:1 mixture of hexane-ethyl acetate, applied to the column of 20 kg of almina in the same manner as described in Example 2 (E) and developed with 30 liters of a 100:2 mixture of ethyl acetate-methanol to elute SY-1, SY-3 and SY-7. The effluent is treated in the same manner as described in Example 2 (E) to give 400 g of salinomycin-SY-1 mixture and 130 g of crude powder containing SY-3 and SY-7.

reactant | SY-1 | CCC(C1CCC(C(O1)C(C)C(C(C)C(=O)C(CC)C2C(CC(C3(O2)C=CCC4(O3)CCC(O4)(C)C5CCC(C(O5)C)(CC)O)C)C)O)C)C(=O)O | C42H70O10
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | salinomycin SY-1 | 400 g | CC[C@H]([C@H]1CC[C@@H]([C@@H](O1)[C@@H](C)[C@@H]([C@H](C)C(=O)[C@H](CC)[C@@H]2[C@H](C[C@H]([C@]3(O2)C=C[C@H]([C@@]4(O3)CC[C@@](O4)(C)[C@H]5CC[C@@]([C@@H](O5)C)(CC)O)O)C)C)O)C)C(=O)O.CCC(C1CCC(C(O1)C(C)C(C(C)C(=O)C(CC)C2C(CC(C3(O2)C=CCC4(O3)CCC(O4)(C)C5CCC(C(O5)C)(CC)O)C)C)O)C)C(=O)O | InChI=1S/C42H70O11.C42H70O10/c1-11-29(38(46)47)31-15-14-23(4)36(50-31)27(8)34(44)26(7)35(45)30(12-2)37-24(5)22-25(6)41(51-37)19-16-32(43)42(53-41)21-20-39(10,52-42)33-17-18-40(48,13-3)28(9)49-33;1-11-30(38(45)46)32-16-15-24(4)36(49-32)28(8)34(43)27(7)35(44)31(12-2)37-25(5)23-26(6)42(50-37)19-14-18-41(52-42)22-21-39(10,51-41)33-17-20-40(47,13-3)29(9)48-33/h16,19,23-34,36-37,43-44,48H,11-15,17-18,20-22H2,1-10H3,(H,46,47);14,19,24-34,36-37,43,47H,11-13,15-18,20-23H2,1-10H3,(H,45,46)/t23-,24-,25+,26-,27-,28-,29+,30-,31+,32+,33+,34+,36+,37-,39-,40+,41-,42-;/m0./s1
